US08871756B2
(2-Chloro-6-methylquinolin-4-yl)acetic acid
To a solution of diethyl (2-chloro-6-methylquinolin-4-yl)propanedioate (100 mg, 0.30 mmol) in methanol (2 mL) was added an aqueous solution of sodium hydroxide (2 N, 2 mL) and the resulting mixture was stirred at room temperature overnight. The reaction was then acidified to pH 4 with an aqueous solution of hydrochloric acid (5 N), and extracted with ethyl acetate (10 mL×3). The organic layer was dried over sodium sulfate and concentrated in vacuo to afford the desired product as a white solid. MS (ESI+) [(M+H)+] 236.

reactant | diethyl (2-chloro-6-methylquinolin-4-yl)propanedioate | 0.30 mmol, 100 mg | ClC1=NC2=CC=C(C=C2C(=C1)C(C(=O)OCC)C(=O)OCC)C | C17H18ClNO4
reactant | sodium hydroxide | 2 N, 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 5 N | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | (2-Chloro-6-methylquinolin-4-yl)acetic acid | ClC1=NC2=CC=C(C=C2C(=C1)CC(=O)O)C | C12H10ClNO2
